US08877787B2
Synthesis of methyl (2R)-2-(m-tolyl)propionate
To (2R)-2-(m-tolyl)propionic acid (12.45 g) were added methanol (14.83 g) and concentrated sulfuric acid (6.46 g), and the mixture was stirred under refluxing for 6 hr. Then, the mixture was neutralized with 10% aqueous sodium carbonate solution, and extracted with hexane. After drying over magnesium sulfate, the residue was concentrated under reduced pressure to give the title compound (12.79 g). The structural property was as described below.

reactant | (2R)-2-(m-tolyl)propionic acid | 12.45 g | C1(=CC(=CC=C1)[C@H](C(=O)O)C)C | C10H12O2
reactant | sulfuric acid | 6.46 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 14.83 g | CO | CH4O
product | methyl (2R)-2-(m-tolyl)propionate | 12.79 g | C1(=CC(=CC=C1)[C@H](C(=O)OC)C)C | C11H14O2
